US03962307
2,6-Diethylacetanilide
A solution of 74.5 parts of 2,6-diethylaniline in 200 parts of dimethylformamide is treated with 56 parts of acetic anhydride at 10°C. The mixture is stirred at 40° for one hour, poured into ice and water and stirred. The solid 2,6-diethylacetanilide is filtered, washed with water and dried.

reactant | 2,6-diethylaniline | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 2,6-Diethylacetanilide | CCC1=C(C(=CC=C1)CC)NC(=O)C | C12H17NO
